US07384945B2
{4-[6-Fluoro-2-phenoxymethyl-3-(4-trifluoromethoxy-benzyl)-3H-benzoimidazol-5-yl]-piperazine-1-yl}-o-tolyl-methanone
80 mg of 5-fluoro-2-phenoxymethyl-6-piperazin-1-yl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole (0.16 mmol) and 0.033 ml TEA (0.24 mmol) were dissolved in 1.5 ml dichloromethane and treated with 0.026 ml 2-Methyl-benzoyl chloride (0.2 mmol). After 5 h stirring at rt, the reaction mixture was diluted with dichloromethane, washed with water, saturated sodium bicarbonate and brine, dried with magnesium sulfate, filtered and concentrated in vacuo, leading to 74 mg light yellow solid (73%). MS (ISP) 619.4 (M+H)+.

reactant | 5-fluoro-2-phenoxymethyl-6-piperazin-1-yl-1-(4-trifluoromethoxy-benzyl)-1H-benzoimidazole | 0.16 mmol, 80 mg | FC1=CC2=C(N(C(=N2)COC2=CC=CC=C2)CC2=CC=C(C=C2)OC(F)(F)F)C=C1N1CCNCC1 | C26H24F4N4O2
reactant | 2-Methyl-benzoyl chloride | 0.2 mmol, 0.026 ml | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | {4-[6-Fluoro-2-phenoxymethyl-3-(4-trifluoromethoxy-benzyl)-3H-benzoimidazol-5-yl]-piperazine-1-yl}-o-tolyl-methanone | FC=1C(=CC2=C(N=C(N2CC2=CC=C(C=C2)OC(F)(F)F)COC2=CC=CC=C2)C1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C | C34H30F4N4O3
